US07037908B2
N-(3,4-dimethylbenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (50 mg, 0.15 mmol) and 3,4-dimethylbenzylamine (102 mg, 0.75 mmol). The title product was obtained as a brown solid (52 mg, 82% yield). 1HNMR (500 MHz, CDCl3) δ: 12.28 (1H, s), 7.88 (1H, t, J=5.50 Hz), 7.38 (1H, t, J=8.24 Hz), 7.10–7.03 (3H, m), 6.61 (2H, d, J=8.54 Hz), 4.48 (2H, d, J=6.11 Hz), 3.75 (6H, s), 3.28 (3H, s), 2.23 (3H, s), 2.22 (3H, s). HRMS (ESI) calcd for C23H26N3O5 (M+H): 424.1873; found: 424.1863.

reactant | 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 50 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1OC)OC | C16H18N2O6
reactant | 3,4-dimethylbenzylamine | 0.75 mmol, 102 mg | CC=1C=C(CN)C=CC1C | C9H13N
product | N-(3,4-dimethylbenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | CC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2OC)OC)C=CC1C | C23H25N3O5
